* Schematics Netlist *



V_V1         $N_0001 0  AC 1
+SIN 0 1 1 0 0 0
L_L3         $N_0002 $N_0003  28.2mH  
C_C3         0 $N_0002  449nF  
L_L1         $N_0001 $N_0003  34.3mH  
C_C1         $N_0001 $N_0003  369nF  
L_L2         $N_0003 $N_0004  29.1mH  
C_C2         $N_0003 $N_0004  435nF  
R_R1         0 $N_0004  200  
